US03988448
To the solution of 30.25 g of 4-benzyl-7,7-diphenyl-hexahydro-1,4-oxazepine in 300 ml of methylene chloride, that of 10.4 g of ethyl chloroformate in 100 ml of methylene chloride is added dropwise while stirring. After 30 minutes the mixture is allowed to warm up to room temperature and stirred for 15 hours. It is successively washed twice with 50 ml of N hydrochloric acid, 50 ml of N aqueous sodium hydroxide and 50 ml of saturated sodium chloride each, dried, filtered and evaporated. The residue is recrystallized from hexane, to yield the 4-carbethoxy-7,7-diphenyl-hexahydro-1,4-oxazepine melting at 122° to 123°.

reactant | 4-benzyl-7,7-diphenyl-hexahydro-1,4-oxazepine | 30.25 g | C(C1=CC=CC=C1)N1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25NO
reactant | ethyl chloroformate | 10.4 g | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-carbethoxy-7,7-diphenyl-hexahydro-1,4-oxazepine | C(=O)(OCC)N1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H23NO3
